US07115762B2
(4) Synthesis of 3-(diphenylphosphino)-4-methyl-styrene
Mg (0.72 g, 30 mmol) was placed in a 50 mL of round-bottom flask. The flask was dried and filled with nitrogen. Anhydrous THF (10 mL) was injected first and followed by injection of a half amount of a solution of 3-bromo-4-methyl-styrene (3.94 g, 20 mmol) in anhydrous THF (10 mL). After an exothermic reaction started, the second half of the solution was added. The resulting Grignard reagent was added to a solution of chlorodiphenylphosphine (5.25 g, 25 mmol) in anhydrous THF (10 mL) at 0° C. After the addition, the reaction mixture was warmed to the room temperature and stirred for another 20 h. Then, it was poured into a saturated NH4Cl aqueous solution (10 mL) at 0° C. and extracted with anhydrous THF (3×20 mL). The organic layer was dried over anhydrous magnesium sulfate and concentrated to a volume of 5 mL. Hexane was added into the resulting oil to precipitate by-products. After filtration and concentration, the residue was purified by a flash column chromatography (hexane/EAC=4/1) to afford 2.42 g of the desired product (39% yield). 1H NMR (300 MHz, CDCl3) δ 2.36 (3H, s), 5.06 (1H, d, J=10.9 Hz), 5.42 (1H, d, J=17.6 Hz), 6.48 (1H, q, J=10.9, 17.6 Hz), 6.79 (1H, q, J=2.1, 5.8 Hz), 7.20–7-34 (11H, m); 13C NMR (75 MHz, CDCl3) δ 20.8, 21.1, 113.0, 126.2, 128.5, 128.6, 128.8, 130.2, 130.3, 130.7, 133.9, 134.1, 135.1, 136.0, 136.3, 136.5, 141.7 ppm; 31P NMR (121 MHz, CDCl3) δ−12.34 ppm; IR (neat) 3057 (m), 3016 (s), 2974 (m), 1957 (w), 1900 (w), 1819 (w), 1629 (m), 1589 (m), 1479 (s), 1435 (s), 1380 (m), 1306 (w), 1262 (m), 1179 (m), 1152 (m), 1093 (m), 1028 (m), 992 (m), 911 (s), 830 (s), 699 (s); MS m/z 302 (M+) 223, 183, 165, 152, 115, 78; HRMS calcd for C21H19P 302.1224, found 302.1227.

reactant | 3-bromo-4-methyl-styrene | 20 mmol, 3.94 g | BrC=1C=C(C=C)C=CC1C | C9H9Br
reactant | chlorodiphenylphosphine | 25 mmol, 5.25 g | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(diphenylphosphino)-4-methyl-styrene | 2.42 g, 39% yield | C1(=CC=CC=C1)P(C=1C=C(C=C)C=CC1C)C1=CC=CC=C1 | C21H19P
